US09145411B2
Step 2: 6-Bromo-5-fluoro-1H-indole-2,3-dione
To concentrated sulfuric acid (40 mL) at 50° C. was added N-(3-bromo-4-fluoro-phenyl)-2-hydroxyimino-acetamide (4 g, 0.0152 mol). The temperature was raised to 90° C. and maintained for 3 hours. The reaction mixture was added to ice cold water to provide a precipitate. The precipitate was filtered and dried to provide the title compound (3.0 g, 80%).

reactant | N-(3-bromo-4-fluoro-phenyl)-2-hydroxyimino-acetamide | 0.0152 mol, 4 g | BrC=1C=C(C=CC1F)NC(C=NO)=O | C8H6BrFN2O2
reactant | sulfuric acid | 40 mL | S(O)(O)(=O)=O | H2O4S
product | 6-Bromo-5-fluoro-1H-indole-2,3-dione | 3.0 g, 80% | BrC1=C(C=C2C(C(NC2=C1)=O)=O)F | C8H3BrFNO2
